US05672566
Preparation of 6-methyl-3-[1-methyl-1-(3,5-dichlorophenyl)ethyl]-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one (Compound No. 1):
Then, a mixture of 5-phenyl-2,2,6-trimethyl-2H,4H-1,3-dioxin-4-one (0.65 g) and N-methylene-1-methyl-1-(3,5-dichlorophenyl)ethylamine (0.65 g) said above was refluxed at 150° C. for 30 minutes for reaction. The reaction mixture was subjected to recrystallization from a mixed solvent of hexane and ethyl acetate to obtain the captioned compound (0.90 g).

reactant | 5-phenyl-2,2,6-trimethyl-2H,4H-1,3-dioxin-4-one | 0.65 g | C1(=CC=CC=C1)C=1C(OC(OC1C)(C)C)=O | C13H14O3
reactant | N-methylene-1-methyl-1-(3,5-dichlorophenyl)ethylamine | 0.65 g | C=NC(C)(C1=CC(=CC(=C1)Cl)Cl)C | C10H11Cl2N
product | 6-methyl-3-[1-methyl-1-(3,5-dichlorophenyl)ethyl]-5-phenyl-2,3-dihydro-4H-1,3-oxazin-4-one | 0.90 g | CC1=C(C(N(CO1)C(C)(C1=CC(=CC(=C1)Cl)Cl)C)=O)C1=CC=CC=C1 | C20H19Cl2NO2
